US08633313B2
A mixture of 3-aminopicolinaldehyde (1.09 g, 8.97 mmol), methyl 3-(2-(methylsulfonyl)phenyl)-3-oxopropanoate (2.3 g, 8.97 mmol) and cerium chloride heptahydrate (587 mg, 1.79 mmol) was heated to 100° C. for 3 h. The residue was dissolved in MeOH and purified by column chromatography on neutral alumina using 0-50% EtOAc in hexane to give methyl 2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carboxylate (800 mg, 26% yield): 1H NMR (400 MHz, DMSO-d6) δ 3.155 (s, 3H), 3.688 (s, 3H), 7.486-7.507 (m, 1H), 7.733-7.816 (m, 2H), 7.951-7.982 (m, 1H), 8.059-8.081 (m, 1H), 8.510 (d, J=8.4 Hz, 1H), 8.965 (s, 1H), 9.165-9.178 (m, 1H); LC-MS (ESI) m/z 342.9 [M+H]+.

reactant | 3-aminopicolinaldehyde | 8.97 mmol, 1.09 g | NC=1C(=NC=CC1)C=O | C6H6N2O
reactant | methyl 3-(2-(methylsulfonyl)phenyl)-3-oxopropanoate | 8.97 mmol, 2.3 g | CS(=O)(=O)C1=C(C=CC=C1)C(CC(=O)OC)=O | C11H12O5S
reactant | cerium chloride heptahydrate | 1.79 mmol, 587 mg | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
solvent | MeOH | CO | CH4O
product | methyl 2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carboxylate | 800 mg, 26% yield | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(=O)OC | C17H14N2O4S
